US07956077B2
tert-Butyl [(1R, 3S)-3-(tetrahydropyran-2-yloxy)cyclohexylmethoxy]acetate
34 g of [(1R,3S)-3-(tetrahydropyran-2-yloxy)cyclohexyl]methanol, 100 g of tert-butyl bromoacetate, 16.2 g of tetrabutylammonium bisulfate and 5.9 g of tetrabutylammonium iodide are dissolved in 250 ml of toluene and, at 10° C. (ice-water bath), a solution of 63.5 g of sodium hydroxide in 80 ml of water is added, and the mixture is stirred vigorously (KPG paddle stirrer) at 10° C. for 8 h. Then MTBE and water are added, and the phases are separated. The aqueous phase is extracted twice with MTBE, and the combined organic phases are washed with saturated sodium chloride solution, dried over magnesium sulfate and concentrated. The residue is chromatographed on silica gel (heptane/ethyl acetate gradient). This results in 36.4 g of tert-butyl [(1R,3S)-3-(tetrahydropyran-2-yloxy)cyclohexylmethoxy]acetate and 6.8 g of [(1R,3S)-3-(tetrahydropyran-2-yloxy)cyclohexyl]methanol as pale yellow oils.

reactant | tert-butyl bromoacetate | 100 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | sodium hydroxide | 63.5 g | [OH-].[Na+]
reactant | MTBE | CC(C)(C)OC | C5H12O
reactant | [(1R,3S)-3-(tetrahydropyran-2-yloxy)cyclohexyl]methanol | 6.8 g | O1C(CCCC1)O[C@@H]1C[C@@H](CCC1)CO | C12H22O3
reactant | [(1R,3S)-3-(tetrahydropyran-2-yloxy)cyclohexyl]methanol | 34 g | O1C(CCCC1)O[C@@H]1C[C@@H](CCC1)CO | C12H22O3
catalyst | tetrabutylammonium bisulfate | 16.2 g | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | tetrabutylammonium iodide | 5.9 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 80 ml | O | H2O
product | tert-Butyl [(1R, 3S)-3-(tetrahydropyran-2-yloxy)cyclohexylmethoxy]acetate | O1C(CCCC1)O[C@@H]1C[C@@H](CCC1)COCC(=O)OC(C)(C)C | C18H32O5
